US07781438B2
Preparation of (3-Chloro-8-dimethylaminomethyl-naphthalen-2-yl)-acetonitrile
Triethylamine (0.12 ml, 0.87 mmol, 2.0 equiv) was added to a solution of (3-chloro-8-dimethylaminomethyl-naphthalen-2-yl)-methanol (109 mg, 0.44 mmol) in CH2Cl2 (1.5 ml). At −25° C., a solution of methanesulfonyl chloride (0.05 ml, 0.66 mmol, 1.5 equiv) in CH2Cl2 (1.5 ml) was then added dropwise. After 15 minutes at 0° C., cold water (4° C., 10 ml) was added, and the mixture was extracted with CH2Cl2 (2×40 ml). The combined organic layers were dried over Na2SO4, filtered and concentrated. The crude mesylate was dissolved in N,N-dimethylformamide (2 ml) and treated at 0° C. with potassium cyanide (39 mg, 0.60 mmol, 1.0 equiv). The reaction mixture was stirred at room temperature for 2 hours, until TLC analysis indicated complete conversion. After dilution with water (50 ml), the mixture was extracted with CH2Cl2 (2×200 ml). The combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo. Purification via flash chromatography (hexane/EtOAc 100:0 to 80:20) afforded the title compound (54 mg, 48%, mixture of 2 regioisomers). The regioisomers could be separated by preparative HPLC. Data for (3-chloro-8-dimethylaminomethyl-naphthalen-2-yl)-acetonitrile: 1H NMR (400 MHz, CDCl3): δ=8.20 (s, 1H), 8.04 (s, 1H), 7.93 (d, J=8.4 Hz, 1H), 7.72 (d, J=6.6 Hz, 1H), 7.55 (dd, J=8.4/6.6 Hz, 1H), 4.59 (s, 2H), 3.96 (s, 2H), 2.78 (s, 6H). MS (ES+): 259 (M+H)+.

reactant | Triethylamine | 0.87 mmol, 0.12 ml, 2.0 equiv | C(C)N(CC)CC | C6H15N
reactant | (3-chloro-8-dimethylaminomethyl-naphthalen-2-yl)-methanol | 0.44 mmol, 109 mg | ClC=1C(=CC2=C(C=CC=C2C1)CN(C)C)CO | C14H16ClNO
reactant | methanesulfonyl chloride | 0.66 mmol, 0.05 ml, 1.5 equiv | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium cyanide | 0.60 mmol, 39 mg, 1.0 equiv | [C-]#N.[K+]
solvent | CH2Cl2 | 1.5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.5 ml | C(Cl)Cl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | (3-Chloro-8-dimethylaminomethyl-naphthalen-2-yl)-acetonitrile | 54 mg, 48% | ClC=1C(=CC2=C(C=CC=C2C1)CN(C)C)CC#N | C15H15ClN2
